US04386081
EXAMPLE 5. Dibenzyl ethoxycarbonylphosphonate
Ethanol (4.6 g) was added to a fine suspension of sodium metal (2.25 g) in dry ether (200 ml) under an atmosphere of nitrogen. The mixture was heated for 8 hours, after which dibenzylphosphite (25.7 g) in dry ether (50 ml) was added. After standing over-night the dibenzylphosphite sodium salt was added over a period of 2 hours to a cold solution of ethyl chloroformate (10.8 g) in ether, under an atmosphere of nitrogen. The reaction was heated at reflux for 1 hour, cooled, washed with water, a NaCl solution and dried over Na2SO4. The ether was evaporated. After evaporating and discarding components volatile at 0.01 mm and 150° C. the residue was collected (13 g).

reactant | sodium | 2.25 g | [Na] | Na
reactant | dibenzylphosphite | 25.7 g | C(C1=CC=CC=C1)OP(OCC1=CC=CC=C1)[O-]
reactant | dibenzylphosphite sodium salt | [Na+].C(C1=CC=CC=C1)OP(OCC1=CC=CC=C1)[O-]
reactant | ethyl chloroformate | 10.8 g | ClC(=O)OCC | C3H5ClO2
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | Ethanol | 4.6 g | C(C)O | C2H6O
product | Dibenzyl ethoxycarbonylphosphonate | C(C)OC(=O)P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O | C17H19O5P
